US04423071
Preparation of 1,2,4-butanetriol tri-(di-n-propylacetate)
Into a perfectly clean and dry flask were introduced 106.1 g (1 mol) of rectified 1,2,4-butanetriol and 1600 ml of anhydrous pyridine. While stirring, 507.4 g (3.12 mols) of di-n-propylacetyl chloride were added in 60 to 90 minutes care being taken to maintain the temperature below 30° C. The reaction medium was then stirred at room-temperature for 72 hours. The subsequent operations of purification were identical to those carried out in the foregoing Example 13.

reactant | 1,2,4-butanetriol | 1 mol, 106.1 g | C(C(CCO)O)O | C4H10O3
reactant | di-n-propylacetyl chloride | 3.12 mols, 507.4 g | C(CC)C(C(=O)Cl)CCC | C8H15ClO
solvent | pyridine | 1600 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,4-butanetriol tri-(di-n-propylacetate) | C(CC)C(C(=O)OCC(CCOC(C(CCC)CCC)=O)OC(C(CCC)CCC)=O)CCC | C28H52O6
